US07507740B2
Production of 5-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}-2-furancarboxylic acid
To a solution of ethyl 5-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}-2-furoate (280 mg) in a mixed solvent of tetrahydrofuran (1.34 mL) and ethanol (1.34 mL) was added 1N aqueous sodium hydroxide solution (1.34 mL) and the mixture was stirred at room temperature for 14 hrs. 1N Hydrochloric acid (1.34 mL) and water (10 mL) were added to the reaction mixture and the mixture was stirred at room temperature for 30 min. The resultant precipitate was collected by filtration, washed with water (10 mL×3) and diisopropyl ether (10 mL×3) and dried under reduced pressure (80° C.) to give the title compound (178 mg) as a white powder.

reactant | ethyl 5-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}-2-furoate | 280 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CC2=CC=C(O2)C(=O)OCC | C27H22ClFN4O4
reactant | tetrahydrofuran | 1.34 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 1.34 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 1.34 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | ethanol | 1.34 mL | C(C)O | C2H6O
product | 5-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}-2-furancarboxylic acid | 178 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CC2=CC=C(O2)C(=O)O | C25H18ClFN4O4
